US04087269
A solution of 13.5 g. 1-dipropylcarbamoyl-3-propylthio-1,2,4-triazole and 100 vol. hydrogen peroxide solution (5.7 ml., 1.0 molecular proportion) in 450 ml. glacial acetic acid was kept at room temperature for 14 days. The resulting solution was evaporated to dryness under reduced pressure and the residual oil was dissolved in methylene dichloride. The resulting solution was washed successively with 0.5N sodium hydroxide solution, and 0.5N hydrochloric acid. Solvent was removed from the solution by distillation under reduced pressure to give a residual oil which solidified on cooling. The solid product was recrystallized from benzene/petroleum ether, b.p. 40° - 60° C. to give 1-dipropylcarbamoyl-3-propylsulphinyl-1,2,4-triazole, m.p. 51° - 52.5° C. Elemental analysis satisfactory.

reactant | 1-dipropylcarbamoyl-3-propylthio-1,2,4-triazole | C(CC)N(C(=O)N1N=C(N=C1)SCCC)CCC | C12H22N4OS
reactant | hydrogen peroxide | 5.7 ml | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-dipropylcarbamoyl-3-propylsulphinyl-1,2,4-triazole | C(CC)N(C(=O)N1N=C(N=C1)S(=O)CCC)CCC | C12H22N4O2S
